US05734081
[S-(R*,R*)]3-tert-Butoxy-2-{2-[2-(2-tert-butoxy-1-carboxy-ethylcarbamoyl)-phenyldisulfanyl]-benzoylamino}-propionic acid
A solution of N,N'-[dithiobis(2,1-phenylene carbonyl)]bis L-serine bis[O(1,1-dimethylethyl) bis (1,1-dimethylethyl)ester (1.0 g, 1.4 mmol) from Example 39, in 30 mL methanol was treated with 8 mL of 1N NaOH and allowed to stir for 18 hours. The methanol was removed in vacuo and the residual was diluted with 5 water and extracted with ethyl acetate. A slow stream of oxygen was passed thru the aqueous layer while dilute HCl was added to maintain a pH=6-7. After the disulfide formation was complete (2-18 hours), dilute HCL was added to a pH=3. The product was collected by filtration, washed with water, dried and was recrystallized from ethyl acetate to afford 0.4 g of the title compound, mp 206°-207° C.

reactant | N,N'-[dithiobis(2,1-phenylene carbonyl)]bis L-serine | C1(=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)N[C@@H](CO)C(=O)O)C(=O)N[C@@H](CO)C(=O)O | C20H20N2O8S2
reactant | NaOH | 1N, 8 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 3-tert-Butoxy-2-{2-[2-(2-tert-butoxy-1-carboxy-ethylcarbamoyl)-phenyldisulfanyl]-benzoylamino}-propionic acid | 0.4 g | C(C)(C)(C)OCC(C(=O)O)NC(C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(NC(COC(C)(C)C)C(=O)O)=O)=O | C28H36N2O8S2
